US06166027
730 mg of 1,1-dichloro-3-[1-(2-fluorobenzyl)indazole-3-carboxamido]-but-1-ene (1.86 mmol) and 3.75 ml of NaOH, 1N (3.75 mmol) were stirred in 7.4 ml of N-methylpyrrolidone at 50° C. under argon overnight. After cooling, the mixture was poured onto ice-water and the product which had precipitated out was filtered off and dried. Finally, it was purified by column chromatography (SiO2, cyclohexane:ethyl acetate 2:1). 375 mg (60%) of 2-[1-(2-fluorobenzyl)indazol-3-yl]-5-hydroxymethyl-4-methyl-oxazole were obtained as white crystals.

reactant | 1,1-dichloro-3-[1-(2-fluorobenzyl)indazole-3-carboxamido]-but-1-ene | 1.86 mmol, 730 mg | ClC(=CC(C)NC(=O)C1=NN(C2=CC=CC=C12)CC1=C(C=CC=C1)F)Cl | C19H16Cl2FN3O
reactant | NaOH | 3.75 ml | [OH-].[Na+]
solvent | N-methylpyrrolidone | 7.4 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[1-(2-fluorobenzyl)indazol-3-yl]-5-hydroxymethyl-4-methyl-oxazole | 375 mg, 60% | FC1=C(CN2N=C(C3=CC=CC=C23)C=2OC(=C(N2)C)CO)C=CC=C1 | C19H16FN3O2
